* e:\ic_mc1445l(2)\ic_mc1445l(2).cir

.include MC1445L.sub
x1 gnd net-_r1-pad1_ gnd gnd gnd out_-_ out_+_ net-_x1-pad8_ net-_x1-pad9_ MC1445L
v1  net-_r1-pad1_ gnd sine(0 0.1 0.8k 0 0)
r1  net-_r1-pad1_ gnd 51
v2 net-_x1-pad8_ gnd  dc 5
v3 net-_x1-pad9_ gnd  dc -5
* u1  out_-_ plot_db
* u2  out_+_ plot_db
r2  gnd out_-_ 2.5k
r3  out_+_ gnd 2.5k
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot db(out_-_)
plot db(out_+_)
.endc
.end
